US08648176B2
DOTA-alkyl-biotin was synthesized following the procedure of Takenouchi et al. (J. Organic Chem. 58:1955-1958, 1993) starting with the compound H-Lys(Boc)-OMe (Bachem, E-1620). H-Lys(Boc)-OMe was treated stepwise with methyl bromoacetate and diethylenetriamine to obtain tert-butyl 4-(3,12-dioxo-1,4,7,10-tetraazacyclododecan-2-yl)butylcarbamate. Borane-THF complex was used to reduce the carboxylic amides followed by trifluoroacetic acid Boc deprotection to obtain 4-(1,4,7,10-tetraazacyclododecan-2-yl)butan-1-amine. This compound was subsequently reacted with biotin-xx, SSE (Invitrogen, B-6352) in DMSO with a 10 fold molar excess of triethylamine for 3 hours vortexing at room temperature. In all synthesis steps compounds were purified by HPLC and confirmed by mass spectrometry with a Waters (Milford, Mass.) LCT electrospray time-of-flight (ES-TOF) liquid chromatography mass spectrometry (LC/MS) or by MALDI-TOF as described above.

reactant | H-Lys(Boc)-OMe | N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC | C12H24N2O4
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
reactant | diethylenetriamine | NCCNCCN | C4H13N3
product | tert-butyl 4-(3,12-dioxo-1,4,7,10-tetraazacyclododecan-2-yl)butylcarbamate | O=C1C(NC(CNCCNCCN1)=O)CCCCNC(OC(C)(C)C)=O | C17H33N5O4
